US03933804
A solution of 4.3 g (0.015 mol) of 5-(4-bromo-3-methyl-2-butenyloxy)-1,3-benzodioxol in 50 cc of benzene is added at 25° to 1.7 g (0.015 mol) of sodium-isobutylthio alcoholate in 30 cc of benzene The mixture is kept at reflux temperature for 13 hours, is subsequently filtered, washed with saturated salt solution and evaporated. The remaining yellow oil is chromatographed with hexane/ethyl acetate 7 : 1 on silica gel, whereby colourless 5-(4-isobutylthio-3-methyl-2-butenyloxy)-1,3-benzodioxol is obtained. nD20 = 1.5463.

reactant | 5-(4-bromo-3-methyl-2-butenyloxy)-1,3-benzodioxol | 0.015 mol, 4.3 g | BrCC(=CCOC1=CC2=C(OCO2)C=C1)C | C12H13BrO3
reactant | sodium isobutylthio alcoholate | 0.015 mol | [Na].C(C(C)C)S[O-]
solvent | benzene | 50 cc | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 cc | C1=CC=CC=C1 | C6H6
product | 5-(4-isobutylthio-3-methyl-2-butenyloxy)-1,3-benzodioxol | C(C(C)C)SCC(=CCOC1=CC2=C(OCO2)C=C1)C | C16H22O3S
